US05260314
B. Ethyl (1-azabicyclo[2.2.2]octan-3-yl)cyanoacetate
A solution of ethyl (1-azabicyclo[2.2.2]octan-3-ylidene)cyanoacetate (73 g, 0.33 mol) in absolute ethanol (1 1) was treated with 10% palladium on charcoal (10 g) and hydrogen in a parr shaker at 20 psi for 5 h. Filtration and evaporation gave the wanted product in 68 g yield.

reactant | ethyl (1-azabicyclo[2.2.2]octan-3-ylidene)cyanoacetate | 0.33 mol, 73 g | N12CC(C(CC1)CC2)=C(C(=O)OCC)C#N | C12H16N2O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium on charcoal | 10 g | [Pd] | Pd
product | Ethyl (1-azabicyclo[2.2.2]octan-3-yl)cyanoacetate | N12CC(C(CC1)CC2)C(C(=O)OCC)C#N | C12H18N2O2
